US04156732
(d) 2-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]furan
3.3 g 2-(4-Chloro-3-chlorosulfonylbenzoyl)-benzo[b]furan are introduced into 19 ml 25% aqueous ammonia solution, and after standing overnight, the liquid is distilled off. After addition of water, the pH is adjusted to 6 by means of dilute HCl, agitation is continued for a further 30 minutes, and the product is crystallized from a small amount of glacial acetic acid. Colorless crystals, m.p. 181° C.

reactant | 2-(4-Chloro-3-chlorosulfonylbenzoyl)-benzo[b]furan | 3.3 g | ClC1=C(C=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1)S(=O)(=O)Cl | C15H8Cl2O4S
reactant | ammonia | 19 ml | N | H3N
product | 2-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]furan | ClC1=C(C=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1)S(N)(=O)=O | C15H10ClNO4S
